US08431569B2
Step 7. {[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}(tert-butyl)dimethylsilane
To a stirred solution of 4-(benzyloxy)-2-fluorocyclohexanol (3.9 g, 17.4 mmol) in DMF (50 mL) were added TBSCl (3.93 g, 26.1 mmol) and imidazole (1.78 g, 26.1 mmol). The reaction was monitored by TLC. After completion of the reaction, the mixture was treated with sodium bicarbonate solution, and extracted with EtOAc. The combined organics were dried, concentrated, and purified by flash chromatography to afford the title compound.

reactant | 4-(benzyloxy)-2-fluorocyclohexanol | 17.4 mmol, 3.9 g | C(C1=CC=CC=C1)OC1CC(C(CC1)O)F | C13H17FO2
reactant | TBSCl | 26.1 mmol, 3.93 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 26.1 mmol, 1.78 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | {[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}(tert-butyl)dimethylsilane | C(C1=CC=CC=C1)OC1CC(C(CC1)O[Si](C)(C)C(C)(C)C)F | C19H31FO2Si
